.subckt APOT 1 2 3 R=100K POS=0.0
  .param safePOS={min(0.999, max(0.001, POS))}
  .param res1={R*(10**(safePOS)-1)/(10-1)}
  r0 1 2 R={res1}
  r1 2 3 R={R-res1}
.ends